US04183924
A. 17α-Benzylthio-1,4-Androstadiene-3,11-Dione
To 13.8 gm. of sodium metal dissolved in 1040 ml. of ethanol is added 47 ml. of benzyl mercaptan, followed by 21 gm. of 17β-methanesulfonyloxy-1,4-androstadiene-3,11-dione. Heat to reflux for 72 hours, then cool and filter off insoluble material. Concentrate the filtrate in vacuo to about 150 ml. and precipitate into 1500 ml. of water containing 150 ml. of a 5% aqueous solution of sodium hypochlorite. Extract three times with 500 ml. portions of chloroform which is then washed twice with water. Dry the chloroform extracts over Na2SO4, then vacuum concentrate to dryness. Dissolve the residue in a minimum amount of chloroform/ethyl acetate (1:1) and pass through 300 gm. of silica gel. Take 1 l. fractions utilizing ethyl acetate/chloroform/hexane (1:10:10). Combine desired fractions as determined by thin layer chromatography and evaporate to dryness. Crystallize the resultant residue from ethyl acetate/hexane to obtain the title compound; m.p. 134°-136° C.; λmaxMeOH 237 nm (ε=17,100); [α]D26 +152.5° (DMF).

reactant | sodium | [Na] | Na
reactant | benzyl mercaptan | C(C1=CC=CC=C1)S | C7H8S
reactant | 17β-methanesulfonyloxy-1,4-androstadiene-3,11-dione | CS(=O)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1C(C2)=O)=O | C20H26O5S
solvent | ethanol | C(C)O | C2H6O
product | 17α-Benzylthio-1,4-Androstadiene-3,11-Dione | C(C1=CC=CC=C1)S[C@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1C(C2)=O)=O | C26H30O2S
